US03969463
6,7-Dihydro-5-methyl-10-nitro-1-oxo-1H,5H-benzo[ij]-quinolizine-2-carboxylic acid (10 g., 0.0345 mole) is dissolved in 300 ml. of aqueous potassium hydroxide (1.9 g., 0.0345 mole) and hydrogenated on a Parr apparatus using Raney nickel catalyst, initial hydrogen pressure 50 p.s.i. The mixture is filtered, and the filtrate is brought to pH 6 with concentrated hydrochloric acid. The yellow precipitate is separated by filtration, washed with water, dried, then recrystallized from N,N-dimethyl formamide to give 10-amino-6,7-dihydro-5-methyl-1-oxo-1H,5H-benzo-[ij]quinolizine-2-carboxylic acid, m.p. 247-249° C.

reactant | 6,7-Dihydro-5-methyl-10-nitro-1-oxo-1H,5H-benzo[ij]-quinolizine-2-carboxylic acid | 0.0345 mole, 10 g | CC1CCC2=C3C(C(C(=CN13)C(=O)O)=O)=C(C=C2)[N+](=O)[O-] | C14H12N2O5
reactant | potassium hydroxide | 0.0345 mole, 1.9 g | [OH-].[K+]
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | [Ni] | Ni
product | 10-amino-6,7-dihydro-5-methyl-1-oxo-1H,5H-benzo-[ij]quinolizine-2-carboxylic acid | NC=1C=CC=2CCC(N3C=C(C(C1C23)=O)C(=O)O)C | C14H14N2O3
